US05965756
9d) Preparation of N-(1,1-dimethylethyl)-1,1-dimethyl-1-(1,5,6,7-tetrahydro-2-methyl-3-phenyl-s-indacen-1-yl)silanamine
Chlorodimethyl(1,5,6,7-tetrahydro-2-methyl-3-phenyl-s-indacen-1-yl)silane (5.3483 g, 0.01578 moles) was stirred in hexane (100 mL) as NEt3 (2.2579 g, 0.02231 moles) and t-butylamine (1.9898 g, 0.02721 moles) were added. This mixture was allowed to stir for 24 hours. After the reaction period the mixture was filtered and the volatiles removed resulting in the isolation of the desired product as a yellow oil (5.4118 g, 91.3 percent).

reactant | Chlorodimethyl(1,5,6,7-tetrahydro-2-methyl-3-phenyl-s-indacen-1-yl)silane | 0.01578 moles, 5.3483 g | Cl[Si](C1C(=C(C2=CC=3CCCC3C=C12)C1=CC=CC=C1)C)(C)C | C21H23ClSi
reactant | NEt3 | 0.02231 moles, 2.2579 g | CCN(CC)CC | C6H15N
reactant | t-butylamine | 0.02721 moles, 1.9898 g | C(C)(C)(C)N | C4H11N
solvent | hexane | 100 mL | CCCCCC | C6H14
product | N-(1,1-dimethylethyl)-1,1-dimethyl-1-(1,5,6,7-tetrahydro-2-methyl-3-phenyl-s-indacen-1-yl)silanamine | 5.4118 g, 91.3 percent | CC(C)(C)N[Si](C1C(=C(C2=CC=3CCCC3C=C12)C1=CC=CC=C1)C)(C)C | C25H33NSi
